US06680335B2
A mixture of 5-amino-2-oxindole (1.8 g) and di-tert-butyl dicarbonate (3.27 g) in butanol (20 mL) was stirred at 100° C. for one hour. The reaction mixture was cooled to room temperature and poured into ice-water. The precipitate was collected by vacuum filtration, washed with water and dried in vacuum oven for overnight to give 2.75 g (92% yield) of 5-tert-butoxycarbonylamino-2-oxindole as a white solid.

reactant | 5-amino-2-oxindole | 1.8 g | NC=1C=C2CC(NC2=CC1)=O | C8H8N2O
reactant | di-tert-butyl dicarbonate | 3.27 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | butanol | 20 mL | C(CCC)O | C4H10O
product | 5-tert-butoxycarbonylamino-2-oxindole | 2.75 g, 92% yield | C(C)(C)(C)OC(=O)NC=1C=C2CC(NC2=CC1)=O | C13H16N2O3
